US05698705
25.6 parts of o-phthalodinitrile (0.2 mol) are stirred into 200 parts of methanol. 4.5 parts of sodium methylate solution, 30% strength in methanol (0.025 mol), are added at 20° C. and the mixture is stirred at 20° C. for 16 hours. A solution of 1,1-dimethoxy-3-imino-isoindoline is obtained.

reactant | o-phthalodinitrile | 0.2 mol | C1=CC=C(C(=C1)C#N)C#N | C8H4N2
reactant | sodium methylate | C[O-].[Na+]
reactant | methanol | CO | CH4O
reactant | methanol | 0.025 mol | CO | CH4O
product | 1,1-dimethoxy-3-imino-isoindoline | COC1(NC(C2=CC=CC=C12)=N)OC | C10H12N2O2
